US07977338B2
3-(1-Methyl-piperidin-4-yloxy)-5-trifluoromethyl-phenylamine
for preparing the compound of examples 43 to 46 may be obtained analogously to a method as described in WO2004005281 for 3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenylamine, but using 1-methyl-piperidin-4-ol. ES-MS: 275.2 [M+H]+; tR=2.41 min

reactant | 3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenylamine | CC=1N=CN(C1)C=1C=C(C=C(C1)C(F)(F)F)N | C11H10F3N3
reactant | 1-methyl-piperidin-4-ol | CN1CCC(CC1)O | C6H13NO
product | 3-(1-Methyl-piperidin-4-yloxy)-5-trifluoromethyl-phenylamine | CN1CCC(CC1)OC=1C=C(C=C(C1)C(F)(F)F)N | C13H17F3N2O
